US08865675B2
A solution of diethylamine (2 mL) in EtOH (10 mL) was treated with 3-((((6Z,9Z,28Z,31Z)-heptatriaconta-6,9,28,31-tetraen-19-yloxy)carbonyl)(methyl)amino)propyl methanesulfonate (500 mg, 0.7 mmol) in CH2Cl2 (2.5 mL). The solution was stirred (50 h), concentrated and subjected to chromatography (EtOAc) to yield (6Z,9Z,28Z,31Z)-heptatriaconta-6,9,28,31-tetraen-19-yl (3-(diethylamino)propyl)(methyl)carbamate (207 mg, 42%) as a pale yellow oil. Rf 0.43 (10% CH3OH—CH2Cl2), 1H NMR (400 MHz, CDCl3, δH) 5.41-5.28 (m, 8H, C═CH×8), 4.79-4.70 (m, 1H, CHO2CNR2), 3.28 (br. s, 2H, CH2NCH3), 2.94-2.83 (br. s, 3H, CO2NCH3), 2.79 (app. t, 4H, bis-allylic CH2×2), 2.52 (q, 4H, N(CH2CH3)2), 2.09-2.01 (m, 8H, CH2HC═C×4), 1.75-1.65 (m 4H, CH2×2), 1.59-1.45 (m, 4H, CH2×2), 1.42-1.22 (m, 36H, CH2×18), 1.15 (t, 6H, N(CH2CH3)2), 0.90 (t, 6H, CH3×2). FW 699.19, C46H86N2O2.

reactant | diethylamine | 2 mL | C(C)NCC | C4H11N
reactant | 3-((((6Z,9Z,28Z,31Z)-heptatriaconta-6,9,28,31-tetraen-19-yloxy)carbonyl)(methyl)amino)propyl methanesulfonate | 0.7 mmol, 500 mg | CS(=O)(=O)OCCCN(C)C(=O)OC(CCCCCCCC\C=C/C\C=C/CCCCC)CCCCCCCC\C=C/C\C=C/CCCCC | C43H79NO5S
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | (6Z,9Z,28Z,31Z)-heptatriaconta-6,9,28,31-tetraen-19-yl (3-(diethylamino)propyl)(methyl)carbamate | 207 mg, 42% | C(C)N(CCCN(C(OC(CCCCCCCC\C=C/C\C=C/CCCCC)CCCCCCCC\C=C/C\C=C/CCCCC)=O)C)CC | C46H86N2O2
